US08735379B2
To a mixture of 1-(piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one (1.17 g, 2.95 mmol), salicylic acid (0.61 g, 4.43 mmol) and Et3N (0.89 g, 8.85 mmol) in CH3CN (10 mL) was added HATU (1.68 g, 4.43 mmol). The mixture was stirred (RT, 16 h). The solvent was removed under reduced pressure and the residue was extracted with EtOAc (4×50 mL). The combined organic layers were washed successively with 1 N aqueous HCl, water, 5% NaHCO3 and water, and dried over MgSO4. The solvent was removed under reduced pressure. Purification of the crude product by prep-HPLC afforded 1-(4-(2-hydroxybenzoyl)piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one (300 mg, 19.6%) as a light yellow oil. Mass calculated for C33H44N2O3=516.71. found: [M+H]+ 517.6.

reactant | 1-(piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one | 2.95 mmol, 1.17 g | N1(CCNCC1)C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)=O | C26H40N2O
reactant | salicylic acid | 4.43 mmol, 0.61 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | Et3N | 8.85 mmol, 0.89 g | CCN(CC)CC | C6H15N
reactant | HATU | 4.43 mmol, 1.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 1-(4-(2-hydroxybenzoyl)piperazin-1-yl)docosa-4,7,10,13,16,19-hexaen-1-one | 300 mg, 19.6% | OC1=C(C(=O)N2CCN(CC2)C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)=O)C=CC=C1 | C33H44N2O3
